US07226644B2
Sodium hydride (60% in oil) was suspended in DMF under nitrogen replacement. Then, the THF solution containing 1-(3-hydroxy-1-hexyl)-2,3,4-trifluorobenzene was added dropwise for 30 minutes, and stirred for 3 hours at 50° C. After toluene was added and stirred for a while, an organic layer was separated and an aqueous layer was extracted with toluene. After the extract and the organic layer were mixed together, washed using water and a saturated saline solution in that order, and dried using anhydrous sodium sulfate, the solvent was evaporated under a reduced pressure. The residue was purified by column chromatography (silica gel, hexane) to obtain 7,8-difluoro-2-propylchroman.

reactant | Sodium hydride | [H-].[Na+]
reactant | THF | C1CCOC1 | C4H8O
reactant | 1-(3-hydroxy-1-hexyl)-2,3,4-trifluorobenzene | OC(CCC1=C(C(=C(C=C1)F)F)F)CCC | C12H15F3O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | DMF | CN(C)C=O | C3H7NO
product | 7,8-difluoro-2-propylchroman | FC1=CC=C2CCC(OC2=C1F)CCC | C12H14F2O
